* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT test3 VDD ground out d a b clk
** N=22 EP=7 IP=0 FDC=32
M0 3 a 2 ground nmos L=1.3e-07 W=1.2e-06 $X=45440 $Y=-1145395 $D=19
M1 ground b 3 ground nmos L=1.3e-07 W=1.2e-06 $X=45750 $Y=-1145395 $D=19
M2 5 2 ground ground nmos L=1.3e-07 W=6e-07 $X=46290 $Y=-1144795 $D=19
M3 7 9 out ground nmos L=1.3e-07 W=6e-07 $X=48720 $Y=-1145395 $D=19
M4 d 21 7 ground nmos L=1.3e-07 W=6e-07 $X=49230 $Y=-1145395 $D=19
M5 9 21 ground ground nmos L=1.3e-07 W=6e-07 $X=50710 $Y=-1145395 $D=19
M6 ground 14 out ground nmos L=1.3e-07 W=6e-07 $X=52245 $Y=-1145395 $D=19
M7 10 13 ground ground nmos L=1.3e-07 W=6e-07 $X=52755 $Y=-1145395 $D=19
M8 11 18 10 ground nmos L=1.3e-07 W=6e-07 $X=53265 $Y=-1145395 $D=19
M9 ground 7 11 ground nmos L=1.3e-07 W=6e-07 $X=53575 $Y=-1145395 $D=19
M10 12 17 ground ground nmos L=1.3e-07 W=6e-07 $X=54085 $Y=-1145395 $D=19
M11 13 18 12 ground nmos L=1.3e-07 W=6e-07 $X=54395 $Y=-1145395 $D=19
M12 ground 10 13 ground nmos L=1.3e-07 W=6e-07 $X=54905 $Y=-1145395 $D=19
M13 14 out ground ground nmos L=1.3e-07 W=6e-07 $X=55415 $Y=-1145395 $D=19
M14 15 clk 14 ground nmos L=1.3e-07 W=6e-07 $X=56895 $Y=-1145395 $D=19
M15 ground 13 15 ground nmos L=1.3e-07 W=6e-07 $X=57205 $Y=-1145395 $D=19
M16 16 10 ground ground nmos L=1.3e-07 W=6e-07 $X=57715 $Y=-1145395 $D=19
M17 out clk 16 ground nmos L=1.3e-07 W=6e-07 $X=58025 $Y=-1145395 $D=19
M18 ground 7 17 ground nmos L=1.3e-07 W=6e-07 $X=59505 $Y=-1145395 $D=19
M19 18 clk ground ground nmos L=1.3e-07 W=6e-07 $X=60015 $Y=-1145395 $D=19
M20 2 a VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=45300 $Y=-1131805 $D=25
M21 VDD b 2 VDD pmos L=1.3e-07 W=1.35e-06 $X=45810 $Y=-1131805 $D=25
M22 5 2 VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=46320 $Y=-1131805 $D=25
M23 7 21 out VDD pmos L=1.3e-07 W=1.35e-06 $X=48710 $Y=-1131805 $D=25
M24 d 9 7 VDD pmos L=1.3e-07 W=1.35e-06 $X=49220 $Y=-1131805 $D=25
M25 9 21 VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=50700 $Y=-1131805 $D=25
M26 VDD 7 17 VDD pmos L=1.3e-07 W=6e-07 $X=53905 $Y=-1131055 $D=25
M27 18 clk VDD VDD pmos L=1.3e-07 W=6e-07 $X=54415 $Y=-1131055 $D=25
M28 VDD 10 13 VDD pmos L=1.3e-07 W=6e-07 $X=55895 $Y=-1131055 $D=25
M29 10 13 VDD VDD pmos L=1.3e-07 W=6e-07 $X=56405 $Y=-1131055 $D=25
M30 VDD 14 out VDD pmos L=1.3e-07 W=6e-07 $X=57885 $Y=-1131055 $D=25
M31 14 out VDD VDD pmos L=1.3e-07 W=6e-07 $X=58395 $Y=-1131055 $D=25
.ENDS
***************************************
