* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT test3 VDD ground out d a b clk
** N=21 EP=7 IP=0 FDC=32
M0 3 a 2 ground nmos L=1.3e-07 W=1.2e-06 $X=100 $Y=53705 $D=19
M1 ground b 3 ground nmos L=1.3e-07 W=1.2e-06 $X=410 $Y=53705 $D=19
M2 5 2 ground ground nmos L=1.3e-07 W=6e-07 $X=950 $Y=54305 $D=19
M3 7 9 out ground nmos L=1.3e-07 W=6e-07 $X=3725 $Y=53705 $D=19
M4 d 5 7 ground nmos L=1.3e-07 W=6e-07 $X=4235 $Y=53705 $D=19
M5 9 5 ground ground nmos L=1.3e-07 W=6e-07 $X=5715 $Y=53705 $D=19
M6 ground 14 out ground nmos L=1.3e-07 W=6e-07 $X=8745 $Y=53705 $D=19
M7 10 13 ground ground nmos L=1.3e-07 W=6e-07 $X=9255 $Y=53705 $D=19
M8 11 18 10 ground nmos L=1.3e-07 W=6e-07 $X=9765 $Y=53705 $D=19
M9 ground 7 11 ground nmos L=1.3e-07 W=6e-07 $X=10075 $Y=53705 $D=19
M10 12 17 ground ground nmos L=1.3e-07 W=6e-07 $X=10585 $Y=53705 $D=19
M11 13 18 12 ground nmos L=1.3e-07 W=6e-07 $X=10895 $Y=53705 $D=19
M12 ground 10 13 ground nmos L=1.3e-07 W=6e-07 $X=11405 $Y=53705 $D=19
M13 14 out ground ground nmos L=1.3e-07 W=6e-07 $X=11915 $Y=53705 $D=19
M14 15 clk 14 ground nmos L=1.3e-07 W=6e-07 $X=13395 $Y=53705 $D=19
M15 ground 13 15 ground nmos L=1.3e-07 W=6e-07 $X=13705 $Y=53705 $D=19
M16 16 10 ground ground nmos L=1.3e-07 W=6e-07 $X=14215 $Y=53705 $D=19
M17 out clk 16 ground nmos L=1.3e-07 W=6e-07 $X=14525 $Y=53705 $D=19
M18 ground 7 17 ground nmos L=1.3e-07 W=6e-07 $X=16005 $Y=53705 $D=19
M19 18 clk ground ground nmos L=1.3e-07 W=6e-07 $X=16515 $Y=53705 $D=19
M20 2 a VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=-40 $Y=67295 $D=25
M21 VDD b 2 VDD pmos L=1.3e-07 W=1.35e-06 $X=470 $Y=67295 $D=25
M22 5 2 VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=980 $Y=67295 $D=25
M23 7 5 out VDD pmos L=1.3e-07 W=1.35e-06 $X=3715 $Y=67295 $D=25
M24 d 9 7 VDD pmos L=1.3e-07 W=1.35e-06 $X=4225 $Y=67295 $D=25
M25 9 5 VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=5705 $Y=67295 $D=25
M26 VDD 7 17 VDD pmos L=1.3e-07 W=6e-07 $X=10405 $Y=68045 $D=25
M27 18 clk VDD VDD pmos L=1.3e-07 W=6e-07 $X=10915 $Y=68045 $D=25
M28 VDD 10 13 VDD pmos L=1.3e-07 W=6e-07 $X=12395 $Y=68045 $D=25
M29 10 13 VDD VDD pmos L=1.3e-07 W=6e-07 $X=12905 $Y=68045 $D=25
M30 VDD 14 out VDD pmos L=1.3e-07 W=6e-07 $X=14385 $Y=68045 $D=25
M31 14 out VDD VDD pmos L=1.3e-07 W=6e-07 $X=14895 $Y=68045 $D=25
.ENDS
***************************************
